US07365095B2
To a solution of (8-bromo-6-fluoro-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate (0.33 g, 0.795 mmol) and 2-chlorophenylboronic acid (249 mg, 1.589 mmol) in dioxane (9 mL) was added a solution of potassium carbonate (329 mg, 2.38 mmol) in water (3 mL) and the mixture purged with nitrogen for 20 minutes. Trans-dichlorobis(tri-o-tolylphosphine)palladium (II) (31.2 mg, 0.0397 mmol) was added and the reaction mixture heated to reflux for 18 hours. The cooled reaction mixture was then partitioned between ethyl acetate (100 mL) and 2.0 M aqueous sodium hydroxide (100 mL). The organic layer was separated, washed with water (100 mL) and saturated brine (100 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a yellow syrup. Purification by flash chromatography using a solvent gradient of 5 to 20% ethyl acetate in hexane gave 253 mg (71%) of toluene-4-sulfonic acid 8-(2-chloro-phenyl)-6-fluoro-chroman-2-ylmethyl ester as a colorless syrup. MS (ESI) m/z 464 ([M+NH4]+).

reactant | (8-bromo-6-fluoro-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.795 mmol, 0.33 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=C(C=C2CC1)F)Br | C17H16BrFO4S
reactant | 2-chlorophenylboronic acid | 1.589 mmol, 249 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 2.38 mmol, 329 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Trans-dichlorobis(tri-o-tolylphosphine)palladium (II) | 0.0397 mmol, 31.2 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.Cl[Pd]Cl
product | toluene-4-sulfonic acid 8-(2-chloro-phenyl)-6-fluoro-chroman-2-ylmethyl ester | 253 mg, 71% | ClC1=C(C=CC=C1)C=1C=C(C=C2CCC(OC12)COS(=O)(=O)C1=CC=C(C=C1)C)F | C23H20ClFO4S
